US08071592B2
(a) Racemic ethyl 4-hydroxy-1-(phenylmethyl)-3-piperidinecarboxylate (Mixture of Cis and Trans)
To a solution of ethyl 4-oxo-1-(phenylmethyl)-3-piperidinecarboxylate hydrochloride (56.2 g, 190 mmol) in methanol (11) was added triethylamine (31.8 mL, 230 mmol) and the mixture stirred at room temperature for 10 min. Sodium borohydride (24.0 g, 630 mmol) was then added portionwise with ice cooling, and the reaction was then stirred at room temperature for 4.5 h. 5N HCl solution (200 mL) was added and the mixture was evaporated. The aqueous residue was basified with aqueous sodium bicarbonate and the extracted several times with a 9:1 dichloromethane:methanol mixture. The extracts were dried and evaporated to give the product (44.3 g, 89%) as a mixture of cis and trans isomers.

reactant | ethyl 4-oxo-1-(phenylmethyl)-3-piperidinecarboxylate hydrochloride | 190 mmol, 56.2 g | Cl.O=C1C(CN(CC1)CC1=CC=CC=C1)C(=O)OCC
reactant | triethylamine | 230 mmol, 31.8 mL | C(C)N(CC)CC | C6H15N
reactant | Sodium borohydride | 630 mmol, 24.0 g | [BH4-].[Na+]
reactant | HCl | 5N, 200 mL | Cl | ClH
solvent | ethyl acrylate | C(C=C)(=O)OCC | C5H8O2
product | Racemic ethyl 4-hydroxy-1-(phenylmethyl)-3-piperidinecarboxylate | 44.3 g, 89% | OC1C(CN(CC1)CC1=CC=CC=C1)C(=O)OCC | C15H21NO3
